US03971784
2.6 g (0.02 mole) of 5-fluorouracil was reacted with 9.28 g (0.05 mole) of p-nitrobenzoyl chloride in the same manner as in Example 1 and 2.95 g (52.9% yield) of 5-fluoro-1-(p-nitrobenzoyl)uracil was obtained. The product was recrystallized from ethanol and white needles melting at 182°-183°C. were obtained. The results of an elementary analysis of the above crystals were well in agreement with the calculated value as follows:

reactant | 5-fluorouracil | 0.02 mole, 2.6 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | p-nitrobenzoyl chloride | 0.05 mole, 9.28 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | 5-fluoro-1-(p-nitrobenzoyl)uracil | 2.95 g, 52.9% yield | FC=1C(NC(N(C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)=O | C11H6FN3O5
